US09233979B2
A dry flask was charged with DCM (59.9 mL) and oxalyl chloride (3.15 mL, 35.9 mmol) and cooled to −78° C. Dimethyl sulfoxide (3.40 mL, 47.9 mmol) was added and the reaction was stirred for 30 min. A solution of (4,6-dichloro-2-methylpyridin-3-yl)methanol (4.60 g, 23.95 mmol) in DCM (2 mL) was then added. The reaction was stirred for 30 min then triethylamine (6.74 mL, 71.9 mmol) was added and the reaction mixture was stirred at −78° C. for 30 min. The reaction was warmed to 0° C. and stirred for 1 h. The reaction was then quenched with sodium bicarbonate, diluted with water, and the aqueous layer extracted with EtOAc. The organic phase was washed with sat. sodium bicarbonate, dried over MgSO4, filtered, and concentrated in vacuo to afford 4,6-dichloro-2-methylnicotinaldehyde, which was carried onto the next step without further purification. 1H NMR (500 MHz, DMSO-d6) δ 10.60 (s, 1H), 7.37 (s, 1H), 2.80 (s, 3H).

reactant | oxalyl chloride | 35.9 mmol, 3.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethyl sulfoxide | 47.9 mmol, 3.40 mL | CS(=O)C | C2H6OS
reactant | (4,6-dichloro-2-methylpyridin-3-yl)methanol | 23.95 mmol, 4.60 g | ClC1=C(C(=NC(=C1)Cl)C)CO | C7H7Cl2NO
reactant | triethylamine | 71.9 mmol, 6.74 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 59.9 mL | C(Cl)Cl | CH2Cl2
product | 4,6-dichloro-2-methylnicotinaldehyde | ClC1=CC(=NC(=C1C=O)C)Cl | C7H5Cl2NO
